US04346087
Into an apparatus similar to that in Example 1, were charged 103.1 g (1 mole) of diethylenetriamine and 116.1 g (1 mole) of methyl 2-formylpropionate. At 130° to 135° C., 18 g of water and 32 g of methanol were distilled off. Then, after addition of 200.3 g (1 mole) of lauric acid, the amide formation was effected at 200° to 210° C. to distil off 18 g of water, leaving behind 4-lauramidoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one.

reactant | diethylenetriamine | 1 mole, 103.1 g | NCCNCCN | C4H13N3
reactant | methyl 2-formylpropionate | 1 mole, 116.1 g | C(=O)C(C(=O)OC)C | C5H8O3
reactant | lauric acid | 1 mole, 200.3 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
product | 4-lauramidoethyl-6-methyl-3,6-dihydro-2H-1,4-diazepin-5-one | C(CCCCCCCCCCC)(=O)NCCN1CCN=CC(C1=O)C | C20H37N3O2
